US05416066
4-Acryloyl-2,3,4,5-tetrahydro-1,4-benzothiazepine (10 g) was dissolved in methylene chloride (150 ml) and sulfuryl chloride (9.3 g) was added thereto under ice cooling and agitated at 0° C. for 1 hour. To the reaction mixture water was added and extracted with chloroform. The chloroform phase was washed with a saturated saline solution and dried on sodium sulfate and thereafter the solvent was distilled out under reduced pressure. Residue was purified by silica gel column chromatography (Wako Gel C-200, 200 g) and eluted with a mixed solvent of n-hexane (70 parts)+ethyl acetate (30 parts) to give 4-acryloyl-2-chloro-2,3,4,5-tetrahydro-1,4-benzothiazepine (10.5 g).

reactant | 4-Acryloyl-2,3,4,5-tetrahydro-1,4-benzothiazepine | 10 g | C(C=C)(=O)N1CCSC2=C(C1)C=CC=C2 | C12H13NOS
reactant | sulfuryl chloride | 9.3 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | water | O | H2O
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 4-acryloyl-2-chloro-2,3,4,5-tetrahydro-1,4-benzothiazepine | 10.5 g | C(C=C)(=O)N1CC(SC2=C(C1)C=CC=C2)Cl | C12H12ClNOS
